US07749992B2
To a heated mixture of potassium t-butoxide (371 g, 3.58 mol) in toluene (4 l) at 70° C. was added 2-[(3-Ethoxycarbonyl-propyl)-(toluene-4-sulfonyl)-amino]-benzoic acid methyl ester (750 g, 1.79 mol). After the addition was completed, the mixture was cooled to room temperature then poured into ice water. The extraction with CH2Cl2 was successively done, and organic layer was dried over MgSO4 and concentrated under reduced pressure to afford crude compound 5-Oxo-1-(toluene-4-sulfonyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepine-4-carboxylic acid ethyl ester (450 g) as a mixture of Me and Et esters.

reactant | potassium t-butoxide | 3.58 mol, 371 g | CC(C)([O-])C.[K+]
reactant | 2-[(3-Ethoxycarbonyl-propyl)-(toluene-4-sulfonyl)-amino]-benzoic acid methyl ester | 1.79 mol, 750 g | COC(C1=C(C=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)C)CCCC(=O)OCC)=O | C21H25NO6S
solvent | toluene | 4 l | C1(=CC=CC=C1)C | C7H8
product | 5-Oxo-1-(toluene-4-sulfonyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepine-4-carboxylic acid ethyl ester | 450 g | C(C)OC(=O)C1C(C2=C(N(CC1)S(=O)(=O)C1=CC=C(C=C1)C)C=CC=C2)=O | C20H21NO5S
